US07763627B2
4-Chloro-2-pyridin-4-ylquinazoline:
2-Pyridin-4-ylquinazolin-4(3H)-one (1 mmol) and PCl5 (1.5 mmol) were suspended in POCl3 (12 mmol). The reaction mixture was brought to reflux over 4 h. The solvent was concentrated to dryness and the amorphous residue was partitioned with ethyl acetate and ice water. The aqueous layer was extracted with additional ethyl acetate and the combined organic layers were washed with 10% Na2CO3 and brine and dried over magnesium sulfate. The filtrate was concentrated and dried in vacuo to afford the desired product as a brown solid. (60% yield). 1H NMR (400 MHz, d6-DMSO): δ 8.84 (d, 2H), 8.36 (d, 2H), 8.12 (m, 2H), 7.88 (m, 2H). MS (EI) for C13H8ClN3: 242 (MH+).

reactant | 2-Pyridin-4-ylquinazolin-4(3H)-one | 1 mmol | N1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1)=O | C13H9N3O
reactant | PCl5 | 1.5 mmol | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | POCl3 | 12 mmol | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-pyridin-4-ylquinazoline | 60% yield | ClC1=NC(=NC2=CC=CC=C12)C1=CC=NC=C1 | C13H8ClN3
